* SPICE netlist generated by Yosys 0.24+10 (git sha1 3ebc50dee, clang 10.0.0-4ubuntu1 -fPIC -Os)

V1 a 0 dc 0 SINE (0 1.0 1 0 0 0)
X0 mid out 0 MEM_UMICH
X1 a mid 0 MEM_UMICH
X2 b mid 0 MEM_UMICH

************************
* end of SPICE netlist *
************************

